US07262185B2
To 4-ethyl-3-hydroxymethyl-4H-1,2,4-triazole (4.6 g), thionyl chloride (36 ml) was slowly added at 0° C. The mixture was heated to reflux for 1 hour, and concentrated under reduced pressure. To the residue was added ethyl acetate and ethanol, and the precipitated crystals were collected by filtration. The crystals were washed with ethyl acetate, to give 3-chloromethyl-4-ethyl-4H-1,2,4-triazole hydrochloride (4.22 g) as orange crystals.

reactant | 4-ethyl-3-hydroxymethyl-4H-1,2,4-triazole | 4.6 g | C(C)N1C(=NN=C1)CO | C5H9N3O
reactant | thionyl chloride | 36 ml | S(=O)(Cl)Cl | Cl2OS
product | 3-chloromethyl-4-ethyl-4H-1,2,4-triazole hydrochloride | 4.22 g | Cl.ClCC1=NN=CN1CC | InChI=1S/C5H8ClN3.ClH/c1-2-9-4-7-8-5(9)3-6;/h4H,2-3H2,1H3;1H
